US06423717B1
1-(2-Methoxy-4-nitrophenyl)-4-methylpiperazine (D34)
A mixture of N-methylpiperazine (216 mg, 2.15 mmol), 2-bromo-5-nitroanisole (1 g, 4.3 mmol), potassium carbonate (447 mg, 3.23 mmol), copper (I) bromide (86.6 mg, 0.30 mmol) in pyridine (0.5 ml) and toluene (2 ml) was heated at 100° C. overnight. After cooling, the mixture was partitioned between water and ether and the aqueous phase was further extracted with ethyl acetate. The combined organic phases were dried (Na2SO4) and evaporated under reduced pressure, to give the crude product. This was purified by chromatography on silica gel, eluting with methanol and dichloromethane, to give the title compound (D34) as a yellow/brown oil (80 mg, 15%) MH+=252.

reactant | N-methylpiperazine | 2.15 mmol, 216 mg | CN1CCNCC1 | C5H12N2
reactant | 2-bromo-5-nitroanisole | 4.3 mmol, 1 g | BrC1=C(C=C(C=C1)[N+](=O)[O-])OC | C7H6BrNO3
reactant | potassium carbonate | 3.23 mmol, 447 mg | C([O-])([O-])=O.[K+].[K+]
solvent | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
catalyst | copper (I) bromide | 0.30 mmol, 86.6 mg | [Cu]Br
product | 1-(2-Methoxy-4-nitrophenyl)-4-methylpiperazine | 80 mg, 15% | COC1=C(C=CC(=C1)[N+](=O)[O-])N1CCN(CC1)C | C12H17N3O3
